US06919322B2
A mixture of diethyl (hydroxymethyl)phosphonate (1.2 mmol), 2-anisoyl chloride (1 mmol) and pyridine (2 mmol) in 5 mL CH2Cl2 were stirred at rt for 4 h. Extraction and chromatography provided diethylphosphonomethyl 2-methoxybenzoate as an oil.

reactant | diethyl (hydroxymethyl)phosphonate | 1.2 mmol | OCP(OCC)(OCC)=O | C5H13O4P
reactant | 2-anisoyl chloride | 1 mmol | C(C=1C(=CC=CC1)OC)(=O)Cl | C8H7ClO2
reactant | pyridine | 2 mmol | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | diethylphosphonomethyl 2-methoxybenzoate | COC1=C(C(=O)OCP(=O)(OCC)OCC)C=CC=C1 | C13H19O6P
